US07163947B2
A solution of N-benzylidene(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)amine (575 mg, 1.75 mmol) in 40 mL of MeOH was treated with NaBH4 (250 mg, 6.58 mmol). After stirring for 4 h, the reaction was quenched with saturated NaHCO3 solution and extracted into CHCl3. The organic portion was washed with H2O and brine and dried over Na2SO4. Chromatography (SiO2, 50–67% EtOAc/hexanes) gave N-benzyl(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)amine (427 mg) as a yellow solid.

reactant | N-benzylidene(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)amine | 1.75 mmol, 575 mg | C(C1=CC=CC=C1)=NN1C(=NC=2C=NC=3C=CC=CC3C21)CCCC | C21H20N4
reactant | NaBH4 | 6.58 mmol, 250 mg | [BH4-].[Na+]
solvent | MeOH | 40 mL | CO | CH4O
product | N-benzyl(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)amine | 427 mg | C(C1=CC=CC=C1)NN1C(=NC=2C=NC=3C=CC=CC3C21)CCCC | C21H22N4
